US05747499
(3) Methyl (2S)-2-amino-4-[1-(2-methoxycarbonylethyl)tetrazol-5-yl]butyrate
To a solution of methyl (2S)-2-(benzyloxycarbonylamino)-4-[1-(2-methoxy-carbonylethyl) tetrazol-5-yl]butyrate (0.233 g, 0.575 mmol) in ethyl acetate (25 ml) was added 10% Pd/C. (0.045 g). The resulting black mixture was degassed and then stirred at 24° C. for 4 hours under hydrogen. The catalyst was removed by filtration and the filtrate was concentrated in vacuo to a colourless viscous oil that dried in vacuo over phosphorous pentoxide. There was thus obtained methyl (2S)-2-amino-4-[1-(2-methoxycarbonylethyl)tetrazol-5-yl]butyrate (0.146 g, 94%) as a colourless viscous oil. This was used in the next step without any further purification.

reactant | methyl (2S)-2-(benzyloxycarbonylamino)-4-[1-(2-methoxy-carbonylethyl) tetrazol-5-yl]butyrate | 0.575 mmol, 0.233 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC)CCC1=NN=NN1CC(OC)=C=O | C18H21N5O6
reactant | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | Methyl (2S)-2-amino-4-[1-(2-methoxycarbonylethyl)tetrazol-5-yl]butyrate | N[C@H](C(=O)OC)CCC1=NN=NN1CCC(=O)OC | C10H17N5O4
